US08895744B2
To a 0.2 M stirred suspension of the α-carboline derivative (200 mg) in anhydrous CH2Cl2 was added AlCl3 (4.5 equiv.) and bromoacetyl bromide (2.1 equiv.), at room temperature under inert atmosphere. The mixture was stirred at reflux until completion of the reaction (followed by t.l.c.). The resulting mixture was then cautiously quenched at 0° C. with H2O. It was extracted with the mixture of EtOAc/DMF (99:1). The resulting organic layer was washed with NaHCO3 saturated aqueous solution and brine, dried over MgSO4, filtered and solvents were removed under reduced pressure. 2-Bromo-1-(9H-pyrido[2,3-b]indol-6-yl)ethanone was obtained in 61% yield after trituration of the crude product in MeOH and filtration

reactant | α-carboline | 200 mg | C=1C=CC2=C(C1)C=3C=CC=NC3N2 | C11H8N2
reactant | AlCl3 | 4.5 equiv. | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | bromoacetyl bromide | 2.1 equiv. | BrCC(=O)Br | C2H2Br2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-Bromo-1-(9H-pyrido[2,3-b]indol-6-yl)ethanone | 61% yield | BrCC(=O)C=1C=C2C3=C(NC2=CC1)N=CC=C3 | C13H9BrN2O
